US07115784B2
2,3,5,6-Tetrahydro-1H-benzo[b]-1,5-diazocin-4-one using tandem aryl amidation-ring expansion reaction
A Schlenk tube was charged with CuI (9.6 mg, 0.050 mmol, 5.0 mol %), 2-azetidinone (86 mg, 1.21 mmol), K3PO4 (430 mg, 2.03 mmol), evacuated, and backfilled with Ar. N,N′-Dimethylethylenediamine (11 μL, 0.103 mmol, 10 mol %), 2-iodobenzylamine (132 μL, 1.00 mmol), and toluene (1 mL) were added under Ar. The Schlenk tube was sealed and the reaction mixture was stirred at 100° C. for 22 h. The resulting suspension was allowed to reach room temperature, poured into a solution of 30% aq ammonia (1 mL) in water (20 mL), and extracted with 3×20 mL CH2Cl2. The combined organic layers were dried (Na2SO4), concentrated, and the residue was purified by flash chromatography on silica gel (2×15 cm, ethyl acetate-methanol 10:1, 15 mL fractions). Fractions 10–20 provided 144 mg of the desired product (82% yield) as a white solid.

reactant | 2-azetidinone | 1.21 mmol, 86 mg | N1C(CC1)=O | C3H5NO
reactant | K3PO4 | 2.03 mmol, 430 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | N,N′-Dimethylethylenediamine | 0.103 mmol, 11 μL | CNCCNC | C4H12N2
reactant | 2-iodobenzylamine | 1.00 mmol, 132 μL | IC1=C(CN)C=CC=C1 | C7H8IN
reactant | ammonia | 1 mL | N | H3N
solvent | water | 20 mL | O | H2O
catalyst | CuI | 0.050 mmol, 9.6 mg | [Cu]I
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 2,3,5,6-Tetrahydro-1H-benzo[b]-1,5-diazocin-4-one | 144 mg, 82% yield | N1C2=C(CNC(CC1)=O)C=CC=C2 | C10H12N2O
